US07951828B1
Step 2: Production of 3-(4-amino-3-difluoromethoxyphenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole
In a mixture of 5.0 mL of water, 1.0 mL of acetic acid and 1.22 g of reduced iron, a solution of 2.0 g of 5-(3,5-dichlorophenyl)-3-(3-difluoromethoxy-4-nitrophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole in 15 mL of ethyl acetate was added dropwise at 75° C. under stirring with heating. After the completion of the addition dropwise, it was stirred at the same temperature for 2.5 hours. After the completion of the reaction, the reaction mixture was subjected to hot filtration through Celite, 20 ml of water was added in the filtrate, extracted with ethyl acetate (20 ml×2). The combined organic phases were washed with 10 ml of saturated sodium hydrogen carbonate aqueous solution, and then dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to obtain 1.7 g of the crude aimed product as yellow resinous substance. The resulting product was used as such without purification for the next step.

reactant | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
reactant | 5-(3,5-dichlorophenyl)-3-(3-difluoromethoxy-4-nitrophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 2.0 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)[N+](=O)[O-])OC(F)F)C(F)(F)F | C17H9Cl2F5N2O4
solvent | water | 5.0 mL | O | H2O
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-amino-3-difluoromethoxyphenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 1.7 g | NC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)OC(F)F | C17H11Cl2F5N2O2
